US04298743
A mixture of 4-bromothiobenzamide (2.16 g., 0.01 mole) and 6-chloro-5-oxohexanenitrile (2.28 g., 0.012 mole) is heated at 60° C. in toluene for 12 hours. On cooling and partial evaporation, there is obtained 3-[2-(4-bromophenyl)thiazol-4-yl]butanenitrile.

reactant | 4-bromothiobenzamide | 0.01 mole, 2.16 g | BrC1=CC=C(C(=S)N)C=C1 | C7H6BrNS
reactant | 6-chloro-5-oxohexanenitrile | 0.012 mole, 2.28 g | ClCC(CCCC#N)=O | C6H8ClNO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-bromophenyl)thiazol-4-yl]butanenitrile | BrC1=CC=C(C=C1)C=1SC=C(N1)C(CC#N)C | C13H11BrN2S
